US08034812B2
Production of methyl 3-(1-cyanocyclobutyl)benzoate
Using methyl 3-(cyanomethyl)benzoate (1.8 g, 10 mmol), sodium hydride (60% in oil, 1.2 g, 30 mmol), 1,3-dibromopropane (3.0 g, 15 mmol) and dimethyl sulfoxide (30 mL) as starting materials and in the same manner as in Reference Example 31, the title compound (0.91 g, 42%) was obtained as a colorless oil.

reactant | methyl 3-(cyanomethyl)benzoate | 10 mmol, 1.8 g | C(#N)CC=1C=C(C(=O)OC)C=CC1 | C10H9NO2
reactant | sodium hydride | 30 mmol, 1.2 g | [H-].[Na+]
reactant | 1,3-dibromopropane | 15 mmol, 3.0 g | BrCCCBr | C3H6Br2
solvent | dimethyl sulfoxide | 30 mL | CS(=O)C | C2H6OS
product | methyl 3-(1-cyanocyclobutyl)benzoate | 0.91 g, 42% | C(#N)C1(CCC1)C=1C=C(C(=O)OC)C=CC1 | C13H13NO2
